US07692005B2
N-(3-{3-[(3-Hydroxy-4-methoxy-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-acetamide
A small screw cap test tube was charged with N-[3-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-acetamide (prepared below, 100 mg, 0.310 mmol) and THF (2 mL). To the resulting solution was added 5-amino-2-methoxyphenol (47.49 mg, 0.341 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature. Hexanes were added to the reaction mixture. The solid precipitate that formed was washed with ˜1 mL of i-prOH yielding 73% (100 mg, 0.22 mmol) of the title compound.

reactant | N-[3-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-acetamide | 0.310 mmol, 100 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(C)=O)=O | C18H14N2O4
reactant | 5-amino-2-methoxyphenol | 0.341 mmol, 47.49 mg | NC=1C=CC(=C(C1)O)OC | C7H9NO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(3-{3-[(3-Hydroxy-4-methoxy-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-acetamide | 0.22 mmol, 100 mg, 73% | OC=1C=C(C=CC1OC)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(C)=O)=O | C25H21N3O5
